US08487106B2
In a reaction vessel, 4-bromo phenethyl alcohol (5.0 g), hexamethyldisilizane (HMDS; 3.0 g), acetonitrile (25 mL) and ammoniumchloride (0.01 g) were introduced, and the mixture was stirred at room temperature for 1 hours or more. The mixture was condensed under reduced pressure, and dichloromethane (30 mL) and distilled water (20 mL) were added to separate layers. The separated organic layer was dehydrated with Na2SO4, and then, condensed by filtration. And then, Pd(dba)2 (0.29 g), t-Bu3P (0.20 g), ZnF2 (1.28 g), methyltrimethylsilyl dimethylketene acetal (2.2 g) and DMF (50 mL) were added thereto, and the mixture was reacted at 80□ for 18 hours. Distilled water (75 mL), ethylacetate (75 mL) and 1N hydrochloric acid (9 mL) were added thereto, and the mixture was stirred to separate layers. The separated organic layer was dehydrated with Na2SO4, and then condensed by filtration, and purified to obtain 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid methylester (5.2 g, yield 88%).

reactant | 4-bromo phenethyl alcohol | 5.0 g | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | hexamethyldisilizane | 3.0 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
reactant | hydrochloric acid | 1N, 9 mL | Cl | ClH
reactant | ethylacetate | 75 mL | C(C)OC(C)=O | C4H8O2
catalyst | ammoniumchloride | 0.01 g | [Cl-].[NH4+]
solvent | water | 75 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid methylester | 5.2 g, yield 88% | COC(C(C)(C)C1=CC=C(C=C1)CCO)=O | C13H18O3
